US08957070B2
N-{2-[4-(Hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a mixture of ethyl 2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylate (0.35 g) and tetrahydrofuran (15 mL) was added lithium aluminum hydride (0.11 g) at 0° C., and the mixture was stirred at 0° C. for 30 min. To the reaction mixture was added ethanol (5 mL) and then saturated aqueous ammonium chloride solution (5 mL) was added. The resulting inorganic salt was removed by filtration, and the filtrate was concentrated. The obtained crystals were dissolved in tetrahydrofuran, treated with activated carbon, and concentrated. Ethyl acetate was added to the obtained residue, and the resulting crystals were collected by filtration and dried to give the title compound (0.10 g, yield 32%) as yellow crystals. melting point>233° C. (decomposition).

reactant | ethyl 2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylate | 0.35 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C=1SC=C(N1)C(=O)OCC | C18H15N3O4S3
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 0.11 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-{2-[4-(Hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.10 g, yield 32% | OCC=1N=C(SC1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C16H13N3O3S3
